US06288120B1
7-[(4-Hexanoyl-benzyl)-methanesulfonyl-amino]-heptanoic acid
A solution of 7-{[4-(1-hydroxy-hexyl)-benzyl]-methanesulfonyl-amino}-heptanoic acid (88 mg, 0.21 mmol) and Dess-Martin reagent (145 mg, 0.34 mmol) in CH2Cl2 (2 mL) was stirred at room temperature for 72 h. Sodium thiosulfate solution was added and the reaction mixture was stirred until all solids were dissolved. The aqueous layer was extracted with CH2Cl2 (2×), and the organic solution was dried over MgSO4, filtered, and concentrated in vacuo. Purification by radial chromatography (CH2Cl2 to 5% MeOH/CH2Cl2) provided the title compound (93.6 mg). 1H NMR (400 MHz, CDCl3) δ 7.92 (d, 2H), 7.43 (d, 2H), 4.40 (s, 2H), 3.15 (t, 2H), 2.95 (t, 2H), 2.85 (s, 3H), 2.28 (t, 2H), 1.71 (m, 2H), 1.50 (m, 4H), 1.15-1.40 (m, 8H), 0.85-0.95 (m, 3H).

reactant | 7-{[4-(1-hydroxy-hexyl)-benzyl]-methanesulfonyl-amino}-heptanoic acid | 0.21 mmol, 88 mg | OC(CCCCC)C1=CC=C(CN(CCCCCCC(=O)O)S(=O)(=O)C)C=C1 | C21H35NO5S
reactant | Dess-Martin reagent | 0.34 mmol, 145 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 7-[(4-Hexanoyl-benzyl)-methanesulfonyl-amino]-heptanoic acid | 93.6 mg | C(CCCCC)(=O)C1=CC=C(CN(CCCCCCC(=O)O)S(=O)(=O)C)C=C1 | C21H33NO5S
